US07368578B2
A mixture of 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde (1.70 g), [(1,3-thiazol-4-yl)methyl]triphenylphosphonium chloride (3.64 g), potassium carbonate (1.27 g) and N,N-dimethylformamide (100 mL) was stirred at room temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (1:3, v/v) to give 4-{(Z)-2-[3-(benzyloxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-thiazole as a colorless oil (0.82 g, yield 37%).

reactant | 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.70 g | C(C1=CC=CC=C1)OC1=NN(C=C1C=O)C1=CC=CC=C1 | C17H14N2O2
reactant | [(1,3-thiazol-4-yl)methyl]triphenylphosphonium chloride | 3.64 g | [Cl-].S1C=NC(=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-{(Z)-2-[3-(benzyloxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-thiazole | 0.82 g, yield 37% | C(C1=CC=CC=C1)OC1=NN(C=C1\C=C/C=1N=CSC1)C1=CC=CC=C1 | C21H17N3OS
